US08912188B2
To a solution of (R)-methyl 2-(4-fluorophenyl)-3-(2-(trifluoromethyl)pyrrolidin-1-yl)quinoxaline-6-carboxylate (35 mg, crude) in methanol (15 mL) was added a solution of sodium hydroxide (10 mg, 0.25 mmol) in water (1 mL). The resulting solution was stirred overnight at room temperature and then concentrated in vacuo. The residue was dissolved in water (5 mL) and adjusted to pH 6 with aqueous hydrochloric acid (1N). The product was collected by filtration and purified by Prep-HPLC under the following conditions: Column, silica gel 19 mm*100 mm; mobile phase, A:B=0.05% TFA:ACN B %=35%˜100% 0˜8 mins; Detector, 5 um. 18.2 mg. (R)-2-(4-Fluorophenyl)-3-(2-(trifluoromethyl)pyrrolidin-1-yl)quinoxaline-6-carboxylic acid was obtained as a yellow solid (2 steps yield=5.3%).

reactant | (R)-methyl 2-(4-fluorophenyl)-3-(2-(trifluoromethyl)pyrrolidin-1-yl)quinoxaline-6-carboxylate | 35 mg | FC1=CC=C(C=C1)C1=NC2=CC=C(C=C2N=C1N1[C@H](CCC1)C(F)(F)F)C(=O)OC | C21H17F4N3O2
reactant | sodium hydroxide | 0.25 mmol, 10 mg | [OH-].[Na+]
solvent | methanol | 15 mL | CO | CH4O
solvent | water | 1 mL | O | H2O
product | (R)-2-(4-Fluorophenyl)-3-(2-(trifluoromethyl)pyrrolidin-1-yl)quinoxaline-6-carboxylic acid | yield=5.3% | FC1=CC=C(C=C1)C1=NC2=CC=C(C=C2N=C1N1[C@H](CCC1)C(F)(F)F)C(=O)O | C20H15F4N3O2
